US07332495B2
IV-31 N1-(4-methoxybenzyl)-N4-[1-(5-chloro-6-methoxy-2-naphthoyl)ethyl]piperazine dihydrochloride
A mixture of N-(4-methoxybenzyl)piperazine dihydrochloride (0.35 g, 1.3 mmol), 2-chloro-1-(5-chloro-6-methoxynaphthalen-2-yl)propan-1-one (0.44 g, 1.57 mmol) and K2CO3 (0.65 g, 4.6 mmol) in 20 ml of DMF was treated according to general preparation 2 to give 0.4 g of compound (IV-31), yield 57%, mp 222-224° C. M+ 452.

reactant | N-(4-methoxybenzyl)piperazine dihydrochloride | 1.3 mmol, 0.35 g | Cl.Cl.COC1=CC=C(CN2CCNCC2)C=C1
reactant | 2-chloro-1-(5-chloro-6-methoxynaphthalen-2-yl)propan-1-one | 1.57 mmol, 0.44 g | ClC(C(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)OC)C | C14H12Cl2O2
reactant | K2CO3 | 4.6 mmol, 0.65 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N1-(4-methoxybenzyl)-N4-[1-(5-chloro-6-methoxy-2-naphthoyl)ethyl]piperazine dihydrochloride | 0.4 g, yield 57% | Cl.Cl.COC1=CC=C(CN2CCN(CC2)C(C)C(=O)C2=CC3=CC=C(C(=C3C=C2)Cl)OC)C=C1 | InChI=1S/C26H29ClN2O3.2ClH/c1-18(26(30)21-6-10-23-20(16-21)7-11-24(32-3)25(23)27)29-14-12-28(13-15-29)17-19-4-8-22(31-2)9-5-19;;/h4-11,16,18H,12-15,17H2,1-3H3;2*1H
